US04785004
A third of a solution of 11 g of 2-nonylbromobenzene [cf. EP-OL 0 123 543] in 15 ml of tetrahydrofuran is added to a mixture, stirred under an argon atmosphere, of 1.1 g of magnesium chips, 8 ml of tetrahydrofuran and 3 drops of carbon tetrachloride and the whole is heated at the boil, under reflux, for 30 minutes. The remainder of the solution of 2-nonylbromobenzene is then added dropwise over a period of 35 minutes and the reaction mixture is maintained under reflux for 2 hours. After dilution with 15 ml of tetrahydrofuran, the suspension is cooled to -10° C. and added in portions to a solution, cooled to -70° C., of 4.6 g of hexanal in 12 ml of tetrahydrofuran. After stirring for 1 hour at -70° C., 200 ml of saturated aqueous ammonium chloride solution are added to the reaction mixture, the organic layer is separated off and the aqueous layer is extracted three times with ether. The residue that remains after the combined ethereal extracts have been dried and concentrated by evaporation is purified by chromatography on silica gel with mixtures of petroleum ether with an increasing amount of methylene chloride, yielding the desired 1-(2-nonylphenyl)-1-hexanol in the form of a colourless oil. IR (CH2Cl2): 3600, 2960, 2925, 2855, 1465 cm-1.

reactant | 2-nonylbromobenzene | 11 g | C(CCCCCCCC)C1=C(C=CC=C1)Br | C15H23Br
reactant | magnesium | 1.1 g | [Mg] | Mg
reactant | hexanal | 4.6 g | C(CCCCC)=O | C6H12O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | carbon tetrachloride | 3 drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(2-nonylphenyl)-1-hexanol | C(CCCCCCCC)C1=C(C=CC=C1)C(CCCCC)O | C21H36O
